US06509328B1
{4′-Fluoro-3-[3-(3-nitro-phenyl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-4′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G39) and 2,2-dimethyl-6-(3-nitro-phenyl)-[1,3]dioxin-4-one (Example J12) according to the general procedure K. Obtained as a light yellow solid (1.01 g).

reactant | (3-amino-4′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)N)=O | C17H19FN2O2
reactant | 2,2-dimethyl-6-(3-nitro-phenyl)-[1,3]dioxin-4-one | CC1(OC(=CC(O1)=O)C1=CC(=CC=C1)[N+](=O)[O-])C | C12H11NO5
product | {4′-Fluoro-3-[3-(3-nitro-phenyl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester | 1.01 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)NC(CC(=O)C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C26H24FN3O6
